US06140332
4-(3-Chloro-anilino)-6-[N-(3-methyl-but-1-yl)-carbamoyl]-7H-pyrrolo[2,3-d]pyrimidine (cf. Example 20za)
95 mg (0.30 mmol) of 4-(3-chloro-anilino)-6-ethoxycarbonyl-7H-pyrrolo[2,3-d]pyrimidine in 1 ml of (3-methyl-but-1-yl)-amine are heated at 80° C. for 12 hours. The reaction mixture is concentrated by evaporation, the residue is dissolved in THF, concentrated by evaporation again, stirred with diethyl ether and filtered, yielding the title compound; m.p. 304-306° C.; FAB-MS: (M+H)+ =358.

reactant | 4-(3-chloro-anilino)-6-ethoxycarbonyl-7H-pyrrolo[2,3-d]pyrimidine | 0.30 mmol, 95 mg | ClC=1C=C(NC=2C3=C(N=CN2)NC(=C3)C(=O)OCC)C=CC1 | C15H13ClN4O2
solvent | (3-methyl-but-1-yl)-amine | 1 ml | CC(CCN)C | C5H13N
product | 4-(3-Chloro-anilino)-6-[N-(3-methyl-but-1-yl)-carbamoyl]-7H-pyrrolo[2,3-d]pyrimidine | ClC=1C=C(NC=2C3=C(N=CN2)NC(=C3)C(NCCC(C)C)=O)C=CC1 | C18H20ClN5O
